US04985419
Powdered potassium hydroxide (96.7 g) is added to a suspension of 2-cyanophenothiazine (242 g) in methyl ethyl ketone (2.2 liters). The temperature of the mixture rises spontaneously to 24° C. and the mixture is brought to 60° C. for half an hour while stirring. The toluene solution of 2-chloro-1-dimethylaminopropane prepared above is added in the course of 30 minutes. The mixture is heated under reflux for 12 hours. After cooling, the mixture is transferred to a separating funnel and washed with distilled water (2×2 liters). The organic phase is dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give an oil, which is diluted in ethyl ether (2 liters). The solution obtained is cooled and primed by scratching. The crystallized yellow precipitate is removed by filtration. The mother liquors are concentrated to dryness under reduced pressure (100 mm Hg; 13.3 kPa) at 30° C. to give a brown oil which is purified by chromatography on a column (height: 80 cm; diameter: 8.5 cm) of silica (0.2-0.06 mm), eluting with an 80:20 (by volume) mixture of cyclohexane and ethyl acetate and collecting 1-liter fractions. Fractions 7 to 16 are combined and concentrated to dryness at 50° C. under reduced pressure (30 mm Hg; 4 kPa) to give 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbonitrile (54.8 g) in the form of a brown oil.

reactant | potassium hydroxide | 96.7 g | [OH-].[K+]
reactant | 2-cyanophenothiazine | 242 g | C(#N)C1=CC=2NC3=CC=CC=C3SC2C=C1 | C13H8N2S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2-chloro-1-dimethylaminopropane | ClC(CN(C)C)C | C5H12ClN
solvent | methyl ethyl ketone | 2.2 liters | C(C)C(=O)C | C4H8O
solvent | ethyl ether | 2 liters | C(C)OCC | C4H10O
product | 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbonitrile | 54.8 g | CN(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N)C | C18H19N3S
